US06730687B1
Ethyl 2-Methylthio-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate
Ethyl 2-methylthio-2-(5-formyl-2-methoxyphenyl)acetate (7.50 g, 28.0 mmol), thiazolidine-2,4-dione (3.94 g, 33.6 mmol), piperidine (2.80 mL, 28.3 mmol) and ethanol (100 mL) were mixed and refluxed for 14 hours. After allowed to stand for cooling, concentrated hydrochloric acid was added under cooling with ice and stirring to make the reaction mixture acidic. Ice water was added thereto and the mixture was stirred for 30 minutes. The precipitated crystals were collected by filtration, washed with ethanol and water, and then dried to obtain 6.18 g (60%) of the title compound as yellow crystals.

reactant | Ethyl 2-methylthio-2-(5-formyl-2-methoxyphenyl)acetate | 28.0 mmol, 7.50 g | CSC(C(=O)OCC)C1=C(C=CC(=C1)C=O)OC | C13H16O4S
reactant | thiazolidine-2,4-dione | 33.6 mmol, 3.94 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 28.3 mmol, 2.80 mL | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 2-Methylthio-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-2-methoxyphenyl]acetate | 6.18 g, 60% | CSC(C(=O)OCC)C1=C(C=CC(=C1)C=C1C(NC(S1)=O)=O)OC | C16H17NO5S2
